US09029536B2
A) 3-[5-(Benzyloxy)pyridin-2-yl]-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine
A mixture of 3-[5-(benzyloxy)pyridin-2-yl]-1H-pyrazolo[4,3-b]pyridine (237 mg), K2CO3 (217 mg) in DMF (3 mL) was added 2-iodopropane (0.102 mL), and stirred at room temperature for 72 h. The mixture was poured into saturated NaHCO3 aqueous solution and extracted with AcOEt. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (219 mg).

reactant | 3-[5-(benzyloxy)pyridin-2-yl]-1H-pyrazolo[4,3-b]pyridine | 237 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C1=NNC=2C1=NC=CC2 | C18H14N4O
reactant | K2CO3 | 217 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodopropane | 0.102 mL | IC(C)C | C3H7I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[5-(Benzyloxy)pyridin-2-yl]-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine | 219 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C1=NN(C=2C1=NC=CC2)C(C)C | C21H20N4O
